US07129250B2
3-Indolepropionic acid (5 g) was dissolved in MeOH (50 mL) and treated with conc. HCl (5 mL). The solution was stirred overnight before the solvent was removed under reduced pressure to provide methyl 3-indolepropionate in quantitative yield. Crude methyl 3-indolepropionate (4.70 g, 23.2 mmol) was dissolved in THF (50 mL), cooled to 0° C., and treated with DIBAL-H (69.5 mL, 69.5 mmol). The reaction mixture was stirred for 2 h at 0° C. and then quenched by the slow addition of a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate, the combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with 1:1 ethyl acetate/hexane, afforded the 3-(3-hydroxypropyl)indole as a yellow solid. 1H NMR (200 MHz, DMSO-d6) δ 7.48 (d, J=8.0 Hz, 1H), 7.23 (d, J=8.0 Hz, 1H), 7.15–6.92 (m, 4H), 4.40 (t, J=6.0 Hz, 1H), 3.55 (t, J=6.0 Hz, 2H), 2.80 (t, J=8.0 Hz, 2H), 1.92–1.76 (m, 2H).

reactant | methyl 3-indolepropionate | 23.2 mmol, 4.70 g | N1C=C(C2=CC=CC=C12)CCC(=O)OC | C12H13NO2
reactant | DIBAL-H | 69.5 mmol, 69.5 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3-hydroxypropyl)indole | OCCCC1=CNC2=CC=CC=C12 | C11H13NO
